US04281204
Dry lithium chloride (3.8 g, 0.09 mol) and methyl 1-(2-isopropylidene-4-chlorobutyl)-2-oxo-4-isopropoxy-6-methyl-3-cyclohexene carboxylate (21.3 g, 0.06 mol) were mixed in anhydrous hexamethylphosphoric triamide (120 mL) under nitrogen. The solution was heated at 130° C. for 40 minutes and after cooling was poured into water (300 mL). The mixture was extracted with ether and the extract dried (Na2SO4). Solvent removal gave 15.2 g of crude spiroketones 1 and 2 (glc purity of 93%, spiroketones separated on HPLC). Crystallization from petroleum ether gave 12.9 g of 2-isopropylidene-8-isopropoxy-10-methylspiro[4.5]dec-7-en-6-one isomer 1 exclusively, mp 77°-77.5° C.

reactant | lithium chloride | 0.09 mol, 3.8 g | [Cl-].[Li+]
reactant | methyl 1-(2-isopropylidene-4-chlorobutyl)-2-oxo-4-isopropoxy-6-methyl-3-cyclohexene carboxylate | 0.06 mol, 21.3 g | C(C)(C)=C(CC1(C(C=C(CC1C)OC(C)C)=O)C(=O)OC)CCCl | C19H29ClO4
reactant | water | 300 mL | O | H2O
solvent | hexamethylphosphoric triamide | 120 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-isopropylidene-8-isopropoxy-10-methylspiro[4.5]dec-7-en-6-one | 12.9 g | C(C)(C)=C1CC2(CC1)C(C=C(CC2C)OC(C)C)=O | C17H26O2
